US04920120
8-Chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-5-methyl-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid
A suspension of 0.38 g (1.21 mmol) of 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid, 0.42 g (4.88 mmol) of piperazine and 20 ml of acetonitrile was refluxed for four hours, then stirred at room temperature overnight. The precipitate was filtered and washed with water and acetonitrile to give 0.32 g of the title compound, mp 234°-235° C.

reactant | 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid | 1.21 mmol, 0.38 g | ClC=1C(=C(C(=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)C)F)F | C14H10ClF2NO3
reactant | piperazine | 4.88 mmol, 0.42 g | N1CCNCC1 | C4H10N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 8-Chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-5-methyl-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 0.32 g | ClC=1C(=C(C(=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)C)F)N1CCNCC1 | C18H19ClFN3O3
